US07141695B2
2.1. Synthesis of (2E)-5-methyl-hex-2-ene carboxylic acid ethyl ester
1 mol (138 g) of potassium carbonate was dissolved in 100 ml of water and cooled in ice water. 0.6 mol (120 ml) of phosphonoacetic acid triethyl ester and 0.5 mol (43.1 g) of 3-methylbutanal were added and the mixture was stirred for 20 hours with the temperature slowly being raised to 25° C. The reaction batch was then diluted with 150 ml of water and extracted four times with diethyl ether. The organic phase was dried with magnesium sulfate and evaporated in a rotary evaporator. A clear liquid was obtained. The crude yield amounted to 75.8 g (97% of theoretical).

reactant | potassium carbonate | 1 mol, 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | phosphonoacetic acid triethyl ester | 0.6 mol, 120 ml | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | 3-methylbutanal | 0.5 mol, 43.1 g | CC(CC=O)C | C5H10O
solvent | water | 100 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | (2E)-5-methyl-hex-2-ene carboxylic acid ethyl ester | C(C)OC(=O)C\C=C\CC(C)C | C10H18O2
